US06677352B1
7-ethoxy-5-ethyl-3-methyl-2-[methyl(phenyl)amino]-1-phenyl-1,8-naphthyridin-4(1H)-one
To a suspension of 2,2,6,6-tetramethylpiperidine (153 mg, 0.18 mL, 1.08 mmol) in THF (10 mL) at 0° C., was added n-BuLi via syringe (1.6 M, 0.68 mL, 1.08 mmol) and TMEDA. The reaction mixture was stirred for 1 h under argon. The reaction mixture was cooled to −60° C. using an acetone/dry ice bath and 2-anilino-7-ethoxy-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one (100 mg, 0.269 mmol) was added via syringe as a solution in THF (5 mL). The mixture was stirred for 1 h. MeI was added via syringe and the reaction was allowed to warm to room temperature and stirred for 18 h. A saturated aqueous solution of NH4Cl (20 mL) and EtOAc (20 mL) was added, and the organic layer was separated, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel flash chromatography using 7:3 to 100:0 EtOAc:Hex to give 3 products as follows:

reactant | 2,2,6,6-tetramethylpiperidine | 1.08 mmol, 0.18 mL, 153 mg | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | [Li]CCCC
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | 2-anilino-7-ethoxy-5-methyl-1-phenyl-1,8-naphthyridin-4(1H)-one | 0.269 mmol, 100 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C)OCC)C1=CC=CC=C1 | C23H21N3O2
reactant | MeI | CI | CH3I
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 7-ethoxy-5-ethyl-3-methyl-2-[methyl(phenyl)amino]-1-phenyl-1,8-naphthyridin-4(1H)-one | C(C)OC1=CC(=C2C(C(=C(N(C2=N1)C1=CC=CC=C1)N(C1=CC=CC=C1)C)C)=O)CC | C26H27N3O2
